US06498165B1
2-[(S)-1-phenylethylamino]-4-[5-(6-(N,N-dimethylamino)pyridazin-3-yl)-benzimidazol-1-yl]pyrimidine
2-[(S)-1-phenylethylamino]-4-[5-(6-chloropyridazin-3-yl)benzimidazol-1-yl]pyrimidine (13.2 mg) was mixed with 33% dimethylamine in ethanol (1 mL) in a sealed tube, the system heated to 60° C. for 15 h. The mixture was cooled, concentrated and the residue purified on silica gel (2.5%MeOH in CH2Cl2) to yield 11.2 mg of the title compound. 1H NMR (500 MHz, CDCl3): δ 8.51 (br s, 1H); 8.41 (d, J=5.5 Hz, 1H); 8.27 (s, 1H); 8.19 (br s, 1H); 7.89 (br s, 1H); 7.73 (d, J=9.6 Hz, 1H); 7.46 (m, 2H); 7.41 (t, J=7.5 Hz, 2H); 7.30 (m, 1H); 6.93 (d, J=1H); 6.81 (d, J=5.5 Hz, 1H); 5.80 (br s, 1H); 5.22 (br s, 1H); 3.26 (s, 6H); 1.65 (d, J=6.9 Hz, 3H). Mass spectrum (ESI) 437.4 (M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-[5-(6-chloropyridazin-3-yl)benzimidazol-1-yl]pyrimidine | 13.2 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C=2N=NC(=CC2)Cl | C23H18ClN7
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-[(S)-1-phenylethylamino]-4-[5-(6-(N,N-dimethylamino)pyridazin-3-yl)-benzimidazol-1-yl]pyrimidine | 11.2 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C=2N=NC(=CC2)N(C)C | C25H24N8
